US07683067B2
2-Hydroxy-N-(2-methoxyethyl)-3-[5-(morpholin-4-ylmethyl)pyridin-2-yl]-1H-indole-5-carboxamide hydrochloride
To a suspension of sodium hydride (97%, 0.030 g, 1.25 mmol) in N,N-dimethylformamide (1.5 mL) was added N-(2-methoxyethyl)-2-oxoindoline-5-carboxamide (0.176 g, 0.75 mmol). The formed mixture was stirred for 5 min at room temperature followed by the addition of 4-[(6-chloro-1-oxidopyridin-3-yl)methyl]morpholine (0.114 g, 0.5 mmol). The resulting reaction mixture was set under an N2 atmosphere and stirred for 1 h at 120° C. and then concentrated in vacuo. The remaining N,N-dimethylformamide was removed by co-evaporation with toluene (1×). The residue was purified on a silica gel column using chloroform/methanol/triethylamine, (90:10:1), as the eluent. The material was dissolved in chloroform (4 mL), and phosphorus trichloride (0.275 g, 2.0 mmol) was added. The reaction mixture was stirred for 1 h at 60° C. and then concentrated in vacuo. The residue was purified on a silica gel column using chloroform/methanol/triethylamine, (90:10:1), as the eluent followed by further purification by washing with diethyl ether (3 mL) to give 0.050 g (24% yield) of the title compound as the base. The base (0.050 g, 0.12 mmol) was dissolved in chloroform/methanol, (1:1), and treated with HCl in diethyl ether (1 M) at 0° C. The resulting yellow crystals were collected by filtration and washed with diethyl ether to obtain 0.029 g (50% yield) of the title compound: 1H NMR (DMSO-d6, 400 MHz) δ 11.48 (br s, 1H), 10.74 (br s, 1H), 8.54 (br s, 1H), 8.27 (s, 1H), 8.11 (d, J=8.0 Hz, 1H), 8.03 (s, 1H), 7.87 (d, J=9.2 Hz, 1H), 7.59 (d, J=8.4 Hz, 1H), 6.98 (d, J=8.4 Hz, 1H), 4.29 (br s, 1H), 4.00 (d, J=11.2 Hz, 2H), 3.87 (d, J=11.2 Hz, 1H), 3.83 (d, J=12.4 Hz, 1H), 3.50 (br s, 4H), 3.38 (d, J=12.4 Hz, 2H), 3.32 (s, 3H), 3.13 (m, 2H); MS (EI) m/z 411 (M++1).

reactant | sodium hydride | 1.25 mmol, 0.030 g | [H-].[Na+]
reactant | N-(2-methoxyethyl)-2-oxoindoline-5-carboxamide | 0.75 mmol, 0.176 g | COCCNC(=O)C=1C=C2CC(NC2=CC1)=O | C12H14N2O3
reactant | 4-[(6-chloro-1-oxidopyridin-3-yl)methyl]morpholine | 0.5 mmol, 0.114 g | ClC1=CC=C(C=[N+]1[O-])CN1CCOCC1 | C10H13ClN2O2
reactant | phosphorus trichloride | 2.0 mmol, 0.275 g | P(Cl)(Cl)Cl | Cl3P
solvent | N,N-dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
product | 2-Hydroxy-N-(2-methoxyethyl)-3-[5-(morpholin-4-ylmethyl)pyridin-2-yl]-1H-indole-5-carboxamide hydrochloride | 0.050 g, 24% yield | Cl.OC=1NC2=CC=C(C=C2C1C1=NC=C(C=C1)CN1CCOCC1)C(=O)NCCOC | InChI=1S/C22H26N4O4.ClH/c1-29-9-6-23-21(27)16-3-5-18-17(12-16)20(22(28)25-18)19-4-2-15(13-24-19)14-26-7-10-30-11-8-26;/h2-5,12-13,25,28H,6-11,14H2,1H3,(H,23,27);1H
